US04322420
7-Chloro-4-(4'-methoxyanilino)quinazoline hydrochloride (Compound No. 10)
5 ml of ethanol were added to a mixture of 4.8 g of 4,7-dichloroquinazoline and 3.0 g of p-anisidine. The resulting mixture was heated, whereupon the solids dissolved and the reaction mixture immediately then solidified. After cooling, the solidified product was collected and washed with ethanol and the resulting crystals were recrystallized from ethanol, giving 2.0 g (yield 62%) of the desired Compound No. 10 in the form of a fine pale yellow powder having a melting point of 276°-279° C. (with decomposition).

reactant | 4,7-dichloroquinazoline | 4.8 g | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | p-anisidine | 3.0 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-Chloro-4-(4'-methoxyanilino)quinazoline hydrochloride | 2.0 g, yield 62% | Cl.ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)OC | InChI=1S/C15H12ClN3O.ClH/c1-20-12-5-3-11(4-6-12)19-15-13-7-2-10(16)8-14(13)17-9-18-15;/h2-9H,1H3,(H,17,18,19);1H
